US07592332B2
To a slurry of 7-benzyloxy-1-methyl-1H-indole-2-carboxylic acid (163 mg, 0.58 mmol) in methylene chloride (2 mL) at 0° C. was added oxalyl chloride (72 microL, 0.84 mmol) followed by a drop of N,N-dimethylformamide. The solution immediately bubbled and became clear after a period of 0.75 h. The mixture was concentrated and redissolved in methylene chloride (1.5 mL). The acid chloride solution was added to a solution of N,N-diisopropylethylamine (202 microL, 1.16 mmol) and 2-tert-butyl-5-methoxy-pyridin-4-ylamine (95 mg, 0.52 mmol) in methylene chloride (1.5 mL). The solution was stirred at room temperature for 3 h then poured onto saturated aqueous NaHCO3. The aqueous layer was extracted with methylene chloride and the combined extracts were washed with saturated aqueous NaHCO3, followed by saturated aqueous KH2PO4, and again with saturated aqueous NaHCO3. The organic extracts were dried over sodium sulfate, filtered through a plug of silica-gel with diethyl ether, and concentrated in vacuo to provide pure 7-benzyloxy-1-methyl-1H-indole-2-carboxylic acid (2-tert-butyl-5-methoxy-pyridin-4-yl)-amide (231 mg, 99%) as a white solid.

reactant | 7-benzyloxy-1-methyl-1H-indole-2-carboxylic acid | 0.58 mmol, 163 mg | C(C1=CC=CC=C1)OC=1C=CC=C2C=C(N(C12)C)C(=O)O | C17H15NO3
reactant | oxalyl chloride | 0.84 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-diisopropylethylamine | 1.16 mmol | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-tert-butyl-5-methoxy-pyridin-4-ylamine | 0.52 mmol, 95 mg | C(C)(C)(C)C1=NC=C(C(=C1)N)OC | C10H16N2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 7-benzyloxy-1-methyl-1H-indole-2-carboxylic acid (2-tert-butyl-5-methoxy-pyridin-4-yl)-amide | 231 mg, 99% | C(C)(C)(C)C1=NC=C(C(=C1)NC(=O)C=1N(C2=C(C=CC=C2C1)OCC1=CC=CC=C1)C)OC | C27H29N3O3
